US06919331B2
To a suspension of NaH (60% mineral oil, 11.2 mg, 0.28 mmol) in DMF (2 mL) at room temperature was added [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (50 mg, 0.094 mmol). After stirring for 5 min iodomethane (47 μL, 0.75 mmol) was added. The mixture was stirred overnight under a nitrogen atmosphere and partitioned between water and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic phases washed with 5% sodium meta-bisulfite and brine. After drying over MgSO4 the residue was purified by flash chromatography (eluent 2% MeOH in CH2Cl2) to give [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methyl-carbamic acid tert-butyl ester (39 mg, 76%) as a white solid:

reactant | NaH | 0.28 mmol, 11.2 mg | [H-].[Na+]
reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.094 mmol, 50 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C30H37N5O4
reactant | iodomethane | 0.75 mmol, 47 μL | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methyl-carbamic acid tert-butyl ester | 39 mg, 76% | C(C)(C)(C)OC(N(C)CC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C31H39N5O4
